US05977139
2-Methoxy-5-(4H-triazol-4-yl)benzoyl chloride
Combine 2-methoxy-5-(4H-triazol-4-yl)benzoic acid (5.5 mmol) and dichloromethane (40 mL). Add dropwise oxalyl chloride (0.72 mL, 8.25 mmol) followed by dimethylformamide (3 drops). After 4 hours, evaporate in vacuo and dry to give the title compound.

reactant | 2-methoxy-5-(4H-triazol-4-yl)benzoic acid | 5.5 mmol | COC1=C(C(=O)O)C=C(C=C1)C1N=NN=C1 | C10H9N3O3
reactant | oxalyl chloride | 8.25 mmol, 0.72 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-Methoxy-5-(4H-triazol-4-yl)benzoyl chloride | COC1=C(C(=O)Cl)C=C(C=C1)C1N=NN=C1 | C10H8ClN3O2
